US05086065
Methyl 2E-3-(2-hydroxymethyl-6-methoxyphenyl)acrylate
1-Hydroxy-7-methoxy-1,3-dihgydrobenzo[c]furan (1.08 g), which was prepared with using 7-methoxyphthalide which was synthesized with using 3-methoxybenzaldehyde by the method described in Journal of Organic Chemistry, 1980, 45, 1835-1838, was dissolved in chloroform (20 ml). Methyl (triphenylphosphoranylidene)acetate (2.68 g) was added to the solution. The mixture was stirred for 40 min. at 50° C. A temperature of the reaction mixture was down to room temperature. The reaction solution was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give the title compound (1.25 g) having the following physical data.

reactant | 7-methoxyphthalide | COC=1C=CC=C2COC(=O)C12 | C9H8O3
reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | Methyl (triphenylphosphoranylidene)acetate | 2.68 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2E-3-(2-hydroxymethyl-6-methoxyphenyl)acrylate | 1.25 g | OCC1=C(C(=CC=C1)OC)/C=C/C(=O)OC | C12H14O4
